US07576212B2
2-(2-Ethoxycarbonyl-acetylamino)-4-phenyl-thiophene-3-carboxylic acid ethyl ester (5.0 g, 13.8mmol) and sodium hydride (1.1 g, 27.7 mmol) in anhydrous THF (120 ml) were refluxed for 6 hr under nitrogen. On cooling, solvents were removed in vacuo and the residue suspended in water (100 ml). The mixture was acidified by addition of concentrated hydrochloric acid (5 ml) and stirred for 1 hr. The precipitate was filtered and dried, then recrystallised from ethanol to give 4-hydroxy-6-oxo-3-phenyl-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester as a pale yellow solid. Yield=2.59 g (63.3%).

reactant | 2-(2-Ethoxycarbonyl-acetylamino)-4-phenyl-thiophene-3-carboxylic acid ethyl ester | 13.8mmol, 5.0 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)NC(CC(=O)OCC)=O | C18H19NO5S
reactant | sodium hydride | 27.7 mmol, 1.1 g | [H-].[Na+]
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 4-hydroxy-6-oxo-3-phenyl-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(NC1=O)SC=C2C2=CC=CC=C2)O | C16H13NO4S
